** sch_path: /foss/designs/MMM-LAB DESIGN/OPAM/test.sch
**.subckt test
x1 VDD OUT INN INP BIAS 0 OPAM
V1 VDD 0 8
VCM cm 0 4.00
VD d 0 0 AC 1 SIN(0 0.005 1)
V2 BIAS 0 1.25
EIP INP cm d 0 0.5
EIN INN cm d 0 -0.5
**** begin user architecture code

.include /headless/pdks/TFT-MMM-LAB-PDK/libs.tech/ngspice/design.ngspice
.lib /headless/pdks/TFT-MMM-LAB-PDK/libs.tech/ngspice/igzo_mmm_lab.ngspice best



.control
set filetype=ascii
save all

* --- 1. operating point ----------------------------------------------------
op
echo === operating point ===
print v(OUT) v(x1.net1) v(x1.net2) v(x1.net3) v(x1.net7) v(x1.net8) v(x1.BOOT_R)
print i(VDD)
show m : vgs vds id gm gds

* --- 2. Bode: magnitude and phase ------------------------------------------
ac dec 20 0.1 1e6
let mag_db = vdb(OUT)
let phase  = 180/PI * cph(v(OUT))
* The reference is the PEAK of the response, not the value at 0.1 Hz.  OPAM
* rises about 2 dB from 0.1 Hz to a peak near 2 Hz, so reading the gain at the
* bottom of the sweep understates it and puts f-3dB in the wrong place.
meas ac av_dc  FIND vdb(OUT) AT=0.1
meas ac av_max MAX vdb(OUT)
meas ac f3db   WHEN vdb(OUT)='av_max-3' FALL=1
meas ac funity WHEN vdb(OUT)=0 FALL=1
* Phase margin against the DC phase, not against zero: an inverting amplifier
* already sits at 180 degrees at DC, and subtracting it is what makes the
* number mean the same thing for both circuits.
meas ac ph_dc FIND phase AT=0.1
meas ac ph_u  FIND phase WHEN vdb(OUT)=0 FALL=1
let pm = 180 + (ph_u - ph_dc)
echo === bode: gain, corner, unity gain, phase margin ===
print av_dc av_max f3db funity ph_dc ph_u pm
meas ac av_stage1 MAX vdb(x1.net3) from=0.1 to=1e6
meas ac av_stage2 MAX vdb(x1.net7) from=0.1 to=1e6
* the AC vectors die with the plot, so keep what the later runs need
set avmaxs = $&av_max
set f3s    = $&f3db
plot mag_db
plot phase

* --- 3. input / output relation --------------------------------------------
dc V4 -2 2 0.01
echo === transfer: output against differential input ===
meas dc out_max MAX v(OUT)
meas dc out_min MIN v(OUT)
meas dc vo_0    FIND v(OUT) AT=0
meas dc vo_p    FIND v(OUT) AT=0.01
meas dc vo_m    FIND v(OUT) AT=-0.01
let slope    = (vo_p - vo_m) / 0.02
let slope_db = db(abs(slope))
print out_max out_min vo_0 slope slope_db
plot v(OUT)

* --- 4. sine inside the band -----------------------------------------------
* a decade below the corner, and small enough that the output cannot clip
let fsig = $f3s / 10
let amp  = 0.3 / (10^($avmaxs/20))
set fsigs = $&fsig
set amps  = $&amp
echo === sine: frequency and amplitude derived from the AC run ===
print fsig amp
* the honest reference for the cross-check is the AC gain at THIS frequency,
* not the flat-band figure - one extra single-point AC run buys that
ac lin 1 $fsigs $fsigs
let av_ref = vdb(OUT)
set avrefs = $&av_ref
alter V4 sin = [ 0 $amps $fsigs ]
* Settle for 200 cycles before measuring, and step at 50 points per cycle.
* This is not caution for its own sake: OPAM's bootstrap gate node is held
* only by the off-device leakage (r_off in opam_core.spice), so the signal
* pumps charge into it through C2 and the node drifts for tens of seconds
* before it finds equilibrium.  Measured over 12 cycles the gain reads several
* dB high and is still moving; by 150 cycles it has converged and stays put
* through 1000.  OPAM2 has no such node and settles at once, so the same
* window costs it only simulation time.
let tskip = 200 / $fsigs
let tstop = tskip + 6 / $fsigs
set ts = $&tstop
set tk = $&tskip
let tstep = 1 / (50 * $fsigs)
set tstp = $&tstep
tran $tstp $ts $tk
echo === sine: measured input and output ===
meas tran vi_pp PP v(INN,INP)   FROM=$tk TO=$ts
meas tran vo_pp PP v(OUT) FROM=$tk TO=$ts
let av_tran = db(vo_pp / vi_pp)
print vi_pp vo_pp av_tran
plot v(OUT) v(INN,INP)

* --- 5. the two gains have to agree ----------------------------------------
* A gap here is a result, not a glitch.  The AC run linearises about the DC
* operating point; the transient is the circuit actually running.  If they
* disagree by more than about 1 dB, either the sine is clipping or the
* operating point moves once the signal is applied - and for a floating
* bootstrap node, it does.
let gain_err = av_tran - $avrefs
print gain_err
echo === done ===
.endc


**** end user architecture code
**.ends

* expanding   symbol:  MMM-LAB DESIGN/OPAM/OPAM.sym # of pins=6
** sym_path: /foss/designs/MMM-LAB DESIGN/OPAM/OPAM.sym
** sch_path: /foss/designs/MMM-LAB DESIGN/OPAM/OPAM.sch
.subckt OPAM VDD OUT INN INP BIAS VSS
*.ipin INP
*.iopin VDD
*.ipin INN
*.iopin VSS
*.iopin BIAS
*.opin OUT
XM2 net2 INP net1 igzo_tft W=385u L=10u ov=5u nf=1 m=1 B=0 b_scale=1
XM4 net2 net3 net1 igzo_tft W=400u L=1505u ov=5u nf=1 m=1 B=0 b_scale=1
XM3 net3 net2 net1 igzo_tft W=400u L=1505u ov=5u nf=1 m=1 B=0 b_scale=1
XM5 net3 INN net1 igzo_tft W=385u L=10u ov=5u nf=1 m=1 B=0 b_scale=1
XM6 VDD VDD net2 igzo_tft W=140u L=200u ov=5u nf=1 m=1 B=0 b_scale=1
XM7 VDD VDD net3 igzo_tft W=140u L=200u ov=5u nf=1 m=1 B=0 b_scale=1
XM8 net1 BIAS VSS igzo_tft W=2950u L=200u ov=5u nf=1 m=1 B=0 b_scale=1
XM9 net5 net5 VSS igzo_tft W=10u L=15u ov=5u nf=1 m=1 B=0 b_scale=1
XM10 VDD net4 net5 igzo_tft W=2720u L=530u ov=5u nf=1 m=1 B=0 b_scale=1
XM11 net6 BIAS VSS igzo_tft W=2510u L=45u ov=5u nf=1 m=1 B=0 b_scale=1
XM12 net4 net2 net6 igzo_tft W=200u L=195u ov=5u nf=1 m=1 B=0 b_scale=1
XM13 VDD BOOT_L net4 igzo_tft W=100u L=35u ov=5u nf=1 m=1 B=0 b_scale=1
XM14 VDD net4 BOOT_L igzo_tft W=5000u L=10u ov=5u nf=1 m=1 B=0 b_scale=1
XC1 BOOT_L net4 cap_mim W=160.64u L=160.64u
XM15 OUT OUT VSS igzo_tft W=10u L=15u ov=5u nf=1 m=1 B=0 b_scale=1
XM16 VDD net7 OUT igzo_tft W=2720u L=530u ov=5u nf=1 m=1 B=0 b_scale=1
XM17 net8 BIAS VSS igzo_tft W=2510u L=45u ov=5u nf=1 m=1 B=0 b_scale=1
XM18 net7 net3 net8 igzo_tft W=200u L=195u ov=5u nf=1 m=1 B=0 b_scale=1
XM19 VDD BOOT_R net7 igzo_tft W=100u L=35u ov=5u nf=1 m=1 B=0 b_scale=1
XM20 VDD net7 BOOT_R igzo_tft W=5000u L=10u ov=5u nf=1 m=1 B=0 b_scale=1
XC2 BOOT_R net7 cap_mim W=160.64u L=160.64u
XC3 INN net2 cap_mim W=160.64u L=160.64u
XC4 net3 INP cap_mim W=160.64u L=160.64u
Rb1 BOOT_L VDD 1T
Rb2 BOOT_R VDD 1T
.ends

.end
